US04751296
A solution of hydroxylamine hydrochloride (0.455 g, 6.55 mmole) in 25 ml of absolute methyl alcohol and a solution of potassium hydroxide (0.85 g, 12.8 mmole) in 25 ml of absolute methyl alcohol were cooled to 0° C. and mixed together. A solution of 2-benzylbut-3-eneoic acid chloride, prepared as described in A above, in 10 ml of dry THF was added at 0° C. to the mixed solutions with stirring. The cooling bath was removed and the mixture was stirred at room temperature for 20 minutes. The pH of the mixture was adjusted to 4.0 with 5% hydrochloric acid and the mixture was evaporated to remove methyl alcohol. The aqueous concentrate was saturated with sodium chloride and extracted four times with 75 ml portions of ethyl acetate. The extracts were combined, washed with brine, dried over magnesium sulfate, filtered and evaporated to dryness. The 2-benzylbut-3-eneoic acid N-hydroxamide obtained as a pale brownish yellow oil was used without further purification in the following step.

reactant | hydroxylamine hydrochloride | 6.55 mmole, 0.455 g | Cl.NO
reactant | potassium hydroxide | 12.8 mmole, 0.85 g | [OH-].[K+]
reactant | 2-benzylbut-3-eneoic acid chloride | C(C1=CC=CC=C1)C(C(=O)Cl)C=C | C11H11ClO
solvent | methyl alcohol | 25 ml | CO | CH4O
solvent | methyl alcohol | 25 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-benzylbut-3-eneoic acid | C(C1=CC=CC=C1)C(C(=O)O)C=C | C11H12O2
